US04061641
1-Cyclohexanoyl-3-[1-(2-[3-indolyl]ethyl)piperid-4-yl]urea
To a suspension of 1-[1-(2-[3-indolyl]ethyl)piperid-4-yl]urea (0.35 g) in dry benzene (2 ml) was added anhydrous pyridine (0.12 g) and then cyclohexanoyl chloride (0.18 g). After refluxing the mixture for 2 for hours, the title compound was filtered off, washed, dried and converted in ethanolic hydrogen chloride to the hydrochloride (0.52 g) m.p. 236.3° C.

reactant | 1-[1-(2-[3-indolyl]ethyl)piperid-4-yl]urea | 0.35 g | N1C=C(C2=CC=CC=C12)CCN1CCC(CC1)NC(=O)N | C16H22N4O
reactant | pyridine | 0.12 g | N1=CC=CC=C1 | C5H5N
reactant | cyclohexanoyl chloride | 0.18 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
product | 1-Cyclohexanoyl-3-[1-(2-[3-indolyl]ethyl)piperid-4-yl]urea | C1(CCCCC1)C(=O)NC(=O)NC1CCN(CC1)CCC1=CNC2=CC=CC=C12 | C23H32N4O2
